US06124354
1-Methyl-3-pyrrolidinyl 1-phenylcyclobutanecarboxylate Hydrochloride
The title compound was prepared in an analogous manner to that in Example 36 by reacting 1-phenylcyclobutanecarbonyl chloride with 1-methyl-3-hydroxypyrrolidine at 80° C. for 17 h. The yield was 1.1 g (67%); mp 153-155° C.; 1H NMR (DMSO-d6, 1% TFA) δ 1.83 (m, 1.5H), 1.96 (m, 1.5H), 2.17 (m, 0.5H), 2.38-2.51 (m, 2.5H), 2.64 (t, 1.5H), 2.73-2.92 (m, 4H), 2.97 (m, 0.5H), 3.06 (m, 0.5H), 3.32 (m, 0.5H), 3.54 (m, 1.5H), 3.76 (m, 0.5H), 5.26 (m, 1H), 7.23-7.39 (m, 5H). Anal. (C16H21NO2.HCl) C, H, N. The compound exists in two forms in DMSO-TFA solution.

reactant | 1-phenylcyclobutanecarbonyl chloride | C1(=CC=CC=C1)C1(CCC1)C(=O)Cl | C11H11ClO
reactant | 1-methyl-3-hydroxypyrrolidine | CN1CC(CC1)O | C5H11NO
solvent | DMSO TFA | CS(=O)C.C(=O)(C(F)(F)F)O
product | 1-Methyl-3-pyrrolidinyl 1-phenylcyclobutanecarboxylate Hydrochloride | Cl.C1(=CC=CC=C1)C1(CCC1)C(=O)OC1CN(CC1)C | InChI=1S/C16H21NO2.ClH/c1-17-11-8-14(12-17)19-15(18)16(9-5-10-16)13-6-3-2-4-7-13;/h2-4,6-7,14H,5,8-12H2,1H3;1H
